US06713474B2
A mixture of 4-bromophenyl acetic acid (5.0 g, 23.3 mmol), and oxalyl chloride (3.25 g, 25.6 mmol) in dichloromethane (100 mL), was stirred at ambient temperature, treated with 3 drops of N,N-dimethylformamide, then stirred for 2.5 hours. The solvents were removed under reduced pressure then the residue was dissolved in dichloromethane (100 mL) and triethylamine (5.9 g, 58.3 mmol). Aniline (2.4 g, 25.6 mmol) was added and the mixture was stirred an additional 1 hour. The solution was washed with 1N aqueous hydrochloric acid (2×50 mL), saturated sodium bicarbonate (100 mL), brine (50 mL), then dried over magnesium sulfate, filtered and the filtrate evaporated under reduced pressure to give N1-phenyl-2-(4-bromophenyl)acetamide (4.62 g, 68%) [RP-HPLC (Hypersil HS C18, 5 m, 100 A, 250×4.6 mm; 25%-00% acetonitrile over 10 min, 1 mL/min) tr 10.85 min.] which was used without further purification. A mixture of N1-phenyl-2-(4-bromophenyl)acetamide (4.62 g, 15.9 mmol), diboron pinacol ester (4.45 g, 17.5 mmol), potassium acetate (4.68 g, 47.8 mmol) and [ 1.1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1: 1) (0.39 g, 0.5 mmol) in N,N-dimethylformamide (90 mL) was heated at 100° C. under an atmosphere of nitrogen for 18 hours then cooled to ambient temperature. The solvent was removed under reduced pressure and the residue was triturated with dichloromethane (100 mL). The insoluble material was removed by filtration through a pad of celite and then the filtrate was concentrated under reduced pressure and purified by flash chromatography on silica gel using dichloromethane/ethyl acetate (95:5) as an eluent to provide N1-phenyl-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetamide (4.82 g, 89%):1H NMR (DMSO-d6, 400 MHz) 10.15(s, 1H), 7.64(d, 2H), 2.59(d, 2H), 7.36(d, 2H), 7.29(t, 2H), 7.03 (t, 1H), 3.67(s, 2H), 1.29(s, 12H); RP-HPLC (Hypersil HS C18, 5 m, 100 A, 250×4.6 mm; 5%-50% acetonitrile over 25 min, 1 mL/min) tr 11.7 min.

reactant | N1-phenyl-2-(4-bromophenyl)acetamide | 15.9 mmol, 4.62 g | C1(=CC=CC=C1)NC(CC1=CC=C(C=C1)Br)=O | C14H12BrNO
reactant | diboron pinacol ester | 17.5 mmol, 4.45 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 47.8 mmol, 4.68 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.5 mmol, 0.39 g | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
product | N1-phenyl-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetamide | 4.82 g, 89% | C1(=CC=CC=C1)NC(CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C20H24BNO3
